US05883255
12-[[(Aminoacetyl)oxy]methyl]-8-methyl-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one Hydrofluoroacetate
The title compound was prepared according to the procedure in Example 5B except using 8-methyl-12-[[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one. 1H NMR (D2O/DSS) d 7.6-7.3 (m, 4H), 6.64 (s, 1H), 5.58 (s, 2H), 4.58 (s, 2H), 4.20 (s, 2H), 2.92 (q, J=7.2 Hz, 2H), 1.94 (s, 3H), 1.22 (t, J=7.2 Hz, 3H). Anal. Calcd for C22H21N3O4.CF3CO2H.H2O: C, 55.07; H, 4.62; N, 8.03. Found: C, 55.32; H, 4.69; N, 7.98.

reactant | 8-methyl-12-[[[[[(1,1-dimethylethoxy)carbonyl]amino]acetyl]oxy]methyl]-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one | CC=1C(N2CC=3C(=NC4=CC=CC=C4C3COC(CNC(=O)OC(C)(C)C)=O)C2=CC1C(CC)=O)=O | C27H29N3O6
reactant | CF3CO2H.H2O | C(F)(F)(F)C(=O)O.O
product | 12-[[(Aminoacetyl)oxy]methyl]-8-methyl-7-(1-oxopropyl)indolizino[1,2-b]quinolin-9(11H)-one | NCC(=O)OCC1=C2C(=NC3=CC=CC=C13)C1=CC(=C(C(N1C2)=O)C)C(CC)=O | C22H21N3O4
